US07855194B2
Step 1: 4-(4-Trifluoromethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-chloro-4-trifluoromethyl-pyrimidine (2.15 g, 11.78 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (3.07 g, 15.31 mmol, 1.3 equiv; commercially available) in anhydrous DMF (15 mL) and triethylamine (5 mL) was heated to 100° C. for 3 h. The organic phase was concentrated under reduced pressure and the residue extracted with dichloromethane (3×50 mL) from a sat. solution of sodium bicarbonate (100 mL). The combined organic phases were dried over MgSO4 and the product purified with column chromatography on silica eluting with heptane/ethyl acetate (5:1+1% triethylamine) providing 3.47 g (85%) of the title compound. MS (ISP): 347.1 [M+H]+.

reactant | 2-chloro-4-trifluoromethyl-pyrimidine | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(4-Trifluoromethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.47 g, 85% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=CC(=N1)C(F)(F)F | C15H21F3N4O2
